US09034866B2
Synthesis of ethyl 4-fluoro-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate
Ethyl 4-hydroxy-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (400 mg, 1.00 mmol, 1.00 equiv) in dichloromethane (25 mL) was added [bis(2-methoxyethyl)amino]sulfur trifluoride (442 mg, 2.00 mmol, 2.00 equiv) at 0° C. After 4 h at room temperature the resulting mixture was washed with brine, extracted with dichloromethane, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:10). It resulted in 330 mg (82%) of the titled compound as a yellow solid. LC-MS (ES, m/z) 403 [M+H]+.

reactant | Ethyl 4-hydroxy-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 1.00 mmol, 400 mg, 1.00 equiv | OC1C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC | C14H13IN2O4
reactant | [bis(2-methoxyethyl)amino]sulfur trifluoride | 2.00 mmol, 442 mg, 2.00 equiv | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | ethyl 4-fluoro-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 330 mg, 82% | FC1C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC | C14H12FIN2O3
